US06166208
Step A: Preparation of 6-Iodo-2H-3,1-benzoxazine-2,4(1H)-dione
A mixture of 2-amino-5-iodobenzoic acid (25 g, 95.05 mmol) and triphosgene (77.1 g, 260.4 mmol) in dioxane (316 mL) was heated to reflux for 8 h. The resulting solid was filtered and washed with diethyl ether to give 28.1 g of the title compound, 1H NMR (300 MHz, Me2SO-d6): δ6.96 (d,1H); 8.02 (dd,1H); 8.13 (d,1H); 11.82 (br s,1H); m/e 288 deprotonated parent molecular ion (m/e) measured by mass spectrometry using atmospheric pressure chemical ionization in the negative ion mode (APCI-).

reactant | 2-amino-5-iodobenzoic acid | 95.05 mmol, 25 g | NC1=C(C(=O)O)C=C(C=C1)I | C7H6INO2
reactant | triphosgene | 260.4 mmol, 77.1 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dioxane | 316 mL | O1CCOCC1 | C4H8O2
product | 6-Iodo-2H-3,1-benzoxazine-2,4(1H)-dione | 28.1 g | IC=1C=CC2=C(C(OC(N2)=O)=O)C1 | C8H4INO3
